US07855292B2
C. 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoic acid methyl ester
The title compound (3.95 g, 75%) was prepared from methyl 2-amino-4-bromobenzoate and 4-chlorosulfonyl-2,1,3-benzothiadiazole as in Example 1, Part A. MS (ESI−): mass calcd. for C14H10BrN3O4S2, 426.9; m/z found, 426 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.34 (br s, 1H), 8.40 (dd, J=7.0, 0.9, 1H), 8.24 (dd, J=8.8, 0.9, 1H), 7.92 (d, J=1.8, 1H), 7.74 (dd, J=8.8, 7.0, 1H), 7.72 (d, J=8.5, 1H), 7.10 (dd, J=8.5, 1.8, 1H), 3.92 (s, 3H).

reactant | methyl 2-amino-4-bromobenzoate | NC1=C(C(=O)OC)C=CC(=C1)Br | C8H8BrNO2
reactant | 4-chlorosulfonyl-2,1,3-benzothiadiazole | ClS(=O)(=O)C1=CC=CC2=NSN=C21 | C6H3ClN2O2S2
product | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-benzoic acid methyl ester | 3.95 g, 75% | COC(C1=C(C=C(C=C1)Br)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O | C14H10BrN3O4S2
